US06916939B2
Into 120 g of 60% NaH and 500 ml of toluene were added dropweise 329 g of butyl bromide and 486 g of diethylene glycol butyl ether at 50° C. Diethylene glycol dibutyl ether (abbreviated as “DEG-DB” hereafter) was obtained by distillation (b.p.: 256° C. under normal pressure) from the reaction mixture. The solubility of glycolide in this compound at 25° C. was 1.8%.

reactant | NaH | 120 g | [H-].[Na+]
reactant | butyl bromide | 329 g | C(CCC)Br | C4H9Br
reactant | diethylene glycol butyl ether | 486 g | C(CCC)OCCOCCO | C8H18O3
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | Diethylene Glycol Dibutyl Ether | C(CCC)OCCOCCOCCCC | C12H26O3
